US09422240B2
trans-3-(4-Fluorophenyl)cyclobutanecarbaldehyde
Instead of 3-phenylcyclobutanone, 3-(4-fluorophenyl)cyclobutanone (4.63 g) was used and treated by the same technique as in Reference Example 24-1 to give the titled compound as a colorless oil (720 mg).

reactant | 3-phenylcyclobutanone | C1(=CC=CC=C1)C1CC(C1)=O | C10H10O
reactant | 3-(4-fluorophenyl)cyclobutanone | 4.63 g | FC1=CC=C(C=C1)C1CC(C1)=O | C10H9FO
product | trans-3-(4-Fluorophenyl)cyclobutanecarbaldehyde | 720 mg | FC1=CC=C(C=C1)[C@@H]1C[C@H](C1)C=O | C11H11FO
